US04560691
A mixture containing 13.4 g of 5-benzoyl-6-[2-(dimethylamino)ethenyl]-2(1H)-pyridinone, 100 ml of dimethylformamide and 12 g of ammonium acetate was heated with stirring on a steam bath for 7 hours and then concentrated on a rotary evaporator. The remaining solid residue was treated with 100 ml of water, the mixture filtered, the collected solid air-dried, recrystallized from ethanol and dried in a vacuum oven at 90°-95° C. to yield 6.3 g of 5-phenyl-1,6-naphthyridin-2(1H)-one, m.p. 261°-263° C.

reactant | 5-benzoyl-6-[2-(dimethylamino)ethenyl]-2(1H)-pyridinone | 13.4 g | C(C1=CC=CC=C1)(=O)C=1C=CC(NC1C=CN(C)C)=O | C16H16N2O2
reactant | ammonium acetate | 12 g | C(C)(=O)[O-].[NH4+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-phenyl-1,6-naphthyridin-2(1H)-one | 6.3 g | C1(=CC=CC=C1)C1=C2C=CC(NC2=CC=N1)=O | C14H10N2O
